US07638541B2
Step 1: 4-(N-Hydroxycarbamimidoyl)-piperidine-1-carboxylic acid tert-butyl ester
To a mixture of 4-cyano-piperidine-1-carboxylic acid tert-butyl ester (6.3 g, 30 mmol), K2CO3 (4.2 g, 30 mmol) in H2O (50 mL) and EtOH (30 mL) was added hydroxylamine hydrogen chloride (4.17 g, 60 mmol). The mixture was heated under reflux overnight, cooled to room temperature and ethanol was removed in vacuo. The residue was extracted with EtOAc (300 mL). The organic layer was washed successively with H2O and brine. After drying (Na2SO4), the solvent was removed to afford the desired product.

reactant | 4-cyano-piperidine-1-carboxylic acid tert-butyl ester | 30 mmol, 6.3 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C#N | C11H18N2O2
reactant | K2CO3 | 30 mmol, 4.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | hydroxylamine hydrogen chloride | 60 mmol, 4.17 g | Cl.NO
solvent | H2O | 50 mL | O | H2O
solvent | EtOH | 30 mL | CCO | C2H6O
product | 4-(N-Hydroxycarbamimidoyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(NO)=N | C11H21N3O3
